US06703392B2
2-[1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide:
prepared by reaction of 1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-picolylamine

reactant | 1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | BrC=1C=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C19H22BrNO3
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-picolylamine | N1=C(C=CC=C1)CN | C6H8N2
product | 2-[1-(3-Bromo-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(pyridin-2-yl-methyl)-acetamide | BrC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=NC=CC=C2)C=CC1OC | C27H30BrN3O4
